US07241791B2
4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenyl N-(tert-butoxycarbonyl)glycylglycinate
A solution of 4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenol (0.30 g, 1.0 mmol), N-(tert-butoxycarbonyl)glycylglycine (0.232 g, 1.0 mmol), N,N-dicylohexylcarbodiimide (0.206 g, 1.0 mmol) and DMAP (0.122 g, 1.0 mmol) in 10 mL of CH2Cl2 was stirred overnight at ambient temperature. The reaction mixture was diluted with CH2Cl2 and filtered through a plug of silica gel. The gel was rinsed with additional CH2Cl2. The combined filtrates were concentrated in vacuo to give 0.35 g to the title compound as a white solid, mp 103–104° C.;

reactant | 4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenol | 1.0 mmol, 0.30 g | C1(CCCC1)N1N=C(C2=CC=CC(=C12)F)C1=CC=C(C=C1)O | C18H17FN2O
reactant | N-(tert-butoxycarbonyl)glycylglycine | 1.0 mmol, 0.232 g | C(C)(C)(C)OC(=O)NCC(=O)NCC(=O)O | C9H16N2O5
catalyst | DMAP | 1.0 mmol, 0.122 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(1-cyclopentyl-7-fluoro-1H-indazol-3-yl)phenyl N-(tert-butoxycarbonyl)glycylglycinate | C(C)(C)(C)OC(=O)NCC(=O)NCC(=O)OC1=CC=C(C=C1)C1=NN(C2=C(C=CC=C12)F)C1CCCC1 | C27H31FN4O5
